US07655666B2
N-[7-Trifluoromethyl-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
2-Amino-4-trifluoromethyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester (4.6 g, 15.4 mmol) in DCM (60 mL) and Et3N (10.7 mL, 5 equiv), (CCl3O)2CO (3.9 g, 0.85 equiv) was added portionwise. The mixture was stirred at r.t. for 2 h before concentration in vacuo to dryness. The resulting paste was dissolved in THF (60 mL) and CH3SO2NHNH2 (2.02 g, 1.2 equiv) was added. The mixture was stirred at r.t. for 1 h. An aqueous NaOH solution (1N, 15.4 mL, 1 equiv) was added and the mixture was stirred for 1 h at r.t. The mixture was then poured into water and the aqueous phase was extracted with AcOEt. The aqueous layer was acidified to pH 3 by addition of 2N aq HCl and then extracted with AcOEt. The organic phases were combined, dried (Na2SO4) and concentrated in vacuo to afford a crude solid (7 g). The crude product was purified by flash chromatography (EtOAc/hexanes (1:9) to EtOAc). The fractions containing the final compound were concentrated in vacuo in order to afford an off-white solid. This solid was sonicated in DCM and the resulting precipitate was filtered off and dried in vacuo to afford the title compound (3.0 g, 48%) as an off-white solid. (ESI-MS: m/z 404.3 [M+H]+, rt 4.20 min). 1H-NMR (DMSO-d6, 400 MHz) 11.7 (s, 1H), 10.45 (s, 1H), 8.0 (s, 1H), 7.70 (s, 1H), 7.55 (s, 1H), 6.35 (s, 1H), 3.60 (s, 3H), 3.20 (s, 3H).

reactant | 2-Amino-4-trifluoromethyl-5-(2-methyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 15.4 mmol, 4.6 g | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C)C(F)(F)F)N)=O | C13H12F3N3O2
reactant | Et3N | 10.7 mL, 5 equiv | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 2.02 g, 1.2 equiv | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 15.4 mL, 1 equiv | [OH-].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-[7-Trifluoromethyl-6-(2-methyl-2H-pyrazol-3-yl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 3.0 g, 48% | FC(C1=C(C=C2C(N(C(NC2=C1)=O)NS(=O)(=O)C)=O)C=1N(N=CC1)C)(F)F | C14H12F3N5O4S
